US04026896
289 Milligrams of 4-(4'-hydroxycinnamoylamino)phenylacetic acid were dissolved in an alcohol and an equivalent amount of sodium hydroxide was added to the solution. The solution was warmed for 30 minutes and then concentrated under reduced pressure. Ether was added to the residue and the precipitated crystals were collected by filtration to obtain sodium 4-(4'-hydroxycinnamoylamino)phenylacetate.

reactant | 4-(4'-hydroxycinnamoylamino)phenylacetic acid | OC1=CC=C(C=CC(=O)NC2=CC=C(C=C2)CC(=O)O)C=C1 | C17H15NO4
reactant | sodium hydroxide | [OH-].[Na+]
product | sodium 4-(4'-hydroxycinnamoylamino)phenylacetate | OC1=CC=C(C=CC(=O)NC2=CC=C(C=C2)CC(=O)[O-])C=C1.[Na+] | InChI=1S/C17H15NO4.Na/c19-15-8-3-12(4-9-15)5-10-16(20)18-14-6-1-13(2-7-14)11-17(21)22;/h1-10,19H,11H2,(H,18,20)(H,21,22);/q;+1/p-1
